US05827849
a) 3-Chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine
Prepared from 3-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine dihydrochloride by reaction with phosphorus oxychloride at 130° C.

reactant | 3-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine dihydrochloride | Cl.Cl.OC1=CC2=C(CCN(CC2)CC)C=N1
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine | ClC1=CC2=C(CCN(CC2)CC)C=N1 | C11H15ClN2
